US07253158B2
4-Chloromethyl-N-cyclopropyl-benzamide
4-Chloromethyl-benzoyl chloride (2.82 g, 15 mmol) and cyclopropylamine (1.26 ml, 18 mmol) were reacted in CH2Cl2 (30 ml) and in the presence of Hünig's base (3.1 ml, 18 mmol) for 1 h. A precipitate was formed which was resolubilzed by adding ethyl acetate. The reaction mixture was washed with a 5% KHSO4/10% K2SO4 solution, NaCl sat. solution and dried (Na2SO4). The organic phase was filtered and concentrated under reduced pressure to yield a semi-solid which was triturated in hexanes: solid 3.1 g (95%); 1H NMR (CDCl3) δ 0.60-0.64 (m, 2H), 0.85-0.90 (m, 2H), 2.89-2.92 (m, 1H), 4.60 (s, 2H), 6.20 (br, 1H), 7.44 (d, 2H), 7.71-7.74 (m, 2H); MS: m/e=210.2 (MH+)

reactant | 4-Chloromethyl-benzoyl chloride | 15 mmol, 2.82 g | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | cyclopropylamine | 18 mmol, 1.26 ml | C1(CC1)N | C3H7N
reactant | Hünig's base | 18 mmol, 3.1 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-Chloromethyl-N-cyclopropyl-benzamide | ClCC1=CC=C(C(=O)NC2CC2)C=C1 | C11H12ClNO
